US07781428B2
To a solution of (3S,3aR)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid, Example 15 (90 mg, 0.20 mmol) in N,N-dimethylformamide (1 mL) was added 1-hydroxybenzotriazole (43 mg, 0.32 mmol), triethylamine (0.06 mL, 0.40 mmol) and O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate (103 mg, 0.32 mmol). The solution was stirred for twenty-five minutes followed by addition of ethanolamine (0.02 mL, 0.32 mmol). The solution was stirred for twenty hours at ambient temperature. The reaction was quenched with water and the resulting yellow solid was collected by vacuum filtration. Chromatography (reverse phase, acetonitrile/water) provided (3S,3aR)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-N-(2-hydroxyethyl)-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxamide (yellow solid, 30 mg, 33% yield). LC/MS on 4.6×50 mm C-18 column, tR=6.00 minutes (10 to 90% acetonitrile/water over 6 minutes at 2 mL/minute with detection 254 nm, at 50° C.); ES-MS m/z 463 (M+H); HRMS Calculated for C26H27ClN4O2: 463.1895 (M+H)+. Found: 463.1875; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.10-1.50 (m, 6H), 1.66-1.84 (m, 2H), 2.17-2.25 (m, 1H), 2.87-2.93 (m, 1H), 2.99-3.06 (m, 1H), 3.26-3.34 (m, 2H), 3.48 (t, J=6.18 Hz, 2H), 3.53-3.63 (m, 2H), 4.92 (dd, J=9.13, 6.18 Hz, 1H), 7.17 (dd, J=8.46, 1.75 Hz, 1H), 7.38 (d, J=2.15 Hz, 1H), 7.65 (d, J=8.86 Hz, 1H), 7.73 (d, J=8.59 Hz, 1H), 7.76 (s, 1H), 8.03 (d, J=8.06 Hz, 1H), 8.46 (t, J=6.31 Hz, 1H).

reactant | (3S,3aR)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CC[C@@H]2[C@@H]1C1CCCC1)C=C(C=C3)C(=O)O | C24H22ClN3O2
reactant | 1-hydroxybenzotriazole | 0.32 mmol, 43 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.40 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.32 mmol, 103 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | ethanolamine | 0.32 mmol, 0.02 mL | C(O)CN | C2H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile water | C(C)#N.O
product | (3S,3aR)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-N-(2-hydroxyethyl)-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxamide | 30 mg, 33% yield | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CC[C@@H]2[C@@H]1C1CCCC1)C=C(C=C3)C(=O)NCCO | C26H27ClN4O2
